US03987160
A mixture of 2,6-dimethoxybenzamide (68 g.; prepared as described by P. Grammaticakis, Compt. rend., 1968, 267C,152), methyl fluorosulphonate (45 g.) and anhydrous methylene dichloride (1 l.) was stirred at room temperature for 3 hours. The solution was evaporated in vacuo, and the residue treated with anhydrous diethyl ether to give crude methyl 2,6-dimethoxybenzimidate fluorosulphonate as a white solid, m.p. 115°-137° C. This was dissolved in anhydrous ethanol (1 l.) and the solution was cooled to 0° C. Anhydrous ethanolic ammonia (350 ml.; prepared by saturation of anhydrous ethanol with anhydrous ammonia at 0° C.) was added, and the mixture kept at room temperature for 4 days. The solution was filtered, the filtrate was evaporated in vacuo, the residue was treated with an excess of 2N sodium hydroxide solution, and the precipitated solid was filtered off, washed with water and recrystallised from isopropanol to give 2,6-dimethoxybenzamidine (15 g.), m.p. 170°-174° C.

reactant | 2,6-dimethoxybenzamide | 68 g | COC1=C(C(=O)N)C(=CC=C1)OC | C9H11NO3
reactant | methyl fluorosulphonate | 45 g | FS(=O)(=O)OC | CH3FO3S
reactant | methylene dichloride | 1 l | C(Cl)Cl | CH2Cl2
reactant | ammonia | 350 ml | N | H3N
solvent | ethanol | 1 l | C(C)O | C2H6O
product | 2,6-dimethoxybenzamidine | 15 g | COC1=C(C(=N)N)C(=CC=C1)OC | C9H12N2O2
